US08912169B2
Step 4: Synthesis of 3-[2-(4-Amino-1-hydroxy-cyclohexyl)-acetylamino]-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from 3-[2-[2-(4-tert-Butoxycarbonylamino-1-hydroxy-cyclohexyl)-acetylamino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester and BCl3 following the procedure described in Step 2 of Example 1. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 363 (MH)+.

reactant | 3-[2-[2-(4-tert-Butoxycarbonylamino-1-hydroxy-cyclohexyl)-acetylamino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(CC3(CCC(CC3)NC(=O)OC(C)(C)C)O)=O)OC)=O | C37H57BN2O9
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | 3-[2-(4-Amino-1-hydroxy-cyclohexyl)-acetylamino]-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | NC1CCC(CC1)(O)CC(=O)NC1B(OC2=C(C1)C=CC=C2C(=O)O)O | C17H23BN2O6
